US04689345
Alpha and beta isomers of 2-(5-hydroxypent-1-yl)bicyclo-[3.3.0]octan-7-one {hexahydro-4-(5-hydroxypentyl)-2(1H)-pentalenone}
The starting material, 6,6-dichloro-2-(5-[(1,1-dimethylethyl)dimethylsiloxy]pent-1-yl)bicyclo[3.3.0]octan-7-one {1,1-dichloro-4-[5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]pentyl]hexahydro-2(1H)-pentalenone}(12.1 g, 0.30 moles) is dissolved in glacial acetic acid (85 ml) and the solution is stirred while zinc (25 g) is slowly added. The reaction is heated at 70° C. for 1 hour, after which time ether (100 ml) is added and the solution filtered. The filtrate is washed with brine and then neutralized with saturated sodium bicarbonate. The ether layer is separated and dried over anhydrous sodium sulfate. The solvent is removed under vacuum leaving a clear yellow oil. The crude product is chromatographed on silica gel and subsequently kugelrohred under vacuum leaving a clear, colorless oil (0.72 g, 3.4 mmoles).

reactant | 6,6-dichloro-2-(5-[(1,1-dimethylethyl)dimethylsiloxy]pent-1-yl)bicyclo[3.3.0]octan-7-one | ClC1(C2CCC(C2CC1=O)CCCCCO[Si](C)(C)C(C)(C)C)Cl | C19H34Cl2O2Si
reactant | 1,1-dichloro-4-[5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]pentyl]hexahydro-2(1H)-pentalenone | ClC1(C(CC2C(CCC12)CCCCCO[Si](C)(C)C(C)(C)C)=O)Cl | C19H34Cl2O2Si
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | acetic acid | 85 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 25 g | [Zn] | Zn
product | 2-(5-hydroxypent-1-yl)bicyclo-[3.3.0]octan-7-one | 3.4 mmoles, 0.72 g | OCCCCCC1C2CC(CC2CC1)=O | C13H22O2
